US04264605
1-(2,6-DIMETHYLBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA
2,6-Dimethylbenzoyl isocyanate (1.61 grams; 0.01 mole) and 6-(4-chlorophenylthio)-3-aminopyridine (2.36 grams; 0.01 mole) were mixed in 50 ml. of ethyl acetate and stirred at room temperature for 12 hours. Solvent was removed in vacuo. TLC showed four spots. The mixture was passed over a column of silica gel with a 1:1 mixture of toluene-ethyl acetate and the product (Rf ≅0.7) separated and crystallized from ethyl acetate-hexanes, yield 1.1 grams, m.p. 159°-160° C.

reactant | 2,6-Dimethylbenzoyl isocyanate | 0.01 mole, 1.61 grams | CC1=C(C(=O)N=C=O)C(=CC=C1)C | C10H9NO2
reactant | 6-(4-chlorophenylthio)-3-aminopyridine | 0.01 mole, 2.36 grams | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)N | C11H9ClN2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DIMETHYLBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA | CC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)SC2=CC=C(C=C2)Cl)C(=CC=C1)C | C21H18ClN3O2S
